US05464781
In a similar manner to Example 1, a mixture of 5-chloro-3-ethoxy-2-methyl-1,8-naphthyridine (2.0 g) and 2-methoxyaniline (1.05 g) in IMS (30 ml) was boiled under reflux for 6 hours then cooled and filtered to give 3-ethoxy-5-(2-methoxyanilino)-2-methyl-1,8-naphthyridine hydrochloride, m.p. 250°-252° C. (with decomposition). Active (1/1) at 30 mg/kg.

reactant | 5-chloro-3-ethoxy-2-methyl-1,8-naphthyridine | 2.0 g | ClC1=C2C=C(C(=NC2=NC=C1)C)OCC | C11H11ClN2O
reactant | 2-methoxyaniline | 1.05 g | COC1=C(N)C=CC=C1 | C7H9NO
product | 3-ethoxy-5-(2-methoxyanilino)-2-methyl-1,8-naphthyridine hydrochloride | Cl.C(C)OC=1C(=NC2=NC=CC(=C2C1)NC1=C(C=CC=C1)OC)C | InChI=1S/C18H19N3O2.ClH/c1-4-23-17-11-13-14(9-10-19-18(13)20-12(17)2)21-15-7-5-6-8-16(15)22-3;/h5-11H,4H2,1-3H3,(H,19,20,21);1H
